US07592363B2
Then a solution of pyridine-2-carboxylic acid methoxy-methyl-amide (1.5 g, 9 mmoles) was allowed to react with 2-flouro-3-trifluoromethylphenylmagnesium bromide (2.72 g, 10 mmoles) in THF (30 mL) at 60° C. overnight. The reaction mixture was cooled and diluted with ethyl acetate and ammonium chloride. The organic portion was washed with brine and dried over MgSO4 and stripped to afford a crude product, which was purified by chromatography with CH2Cl2 to give (6-fluoro-5-trifluoromethyl-cyclohexa-2,4-dienyl)-pyridin-2-yl-methanone as a colorless liquid (1.6 gr., 65%).

reactant | pyridine-2-carboxylic acid methoxy-methyl-amide | 9 mmoles, 1.5 g | CON(C(=O)C1=NC=CC=C1)C | C8H10N2O2
reactant | 2-flouro-3-trifluoromethylphenylmagnesium bromide | 10 mmoles, 2.72 g | FC1=C(C=CC=C1C(F)(F)F)[Mg]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
product | (6-fluoro-5-trifluoromethyl-cyclohexa-2,4-dienyl)-pyridin-2-yl-methanone | FC1C(=CC=CC1C(=O)C1=NC=CC=C1)C(F)(F)F | C13H9F4NO
